US06951879B2
In analogy to example 3.1, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole and Hydroxyethylamine were converted to yield 2-{3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propylamino}-ethanol as white semisolid, MS: 407 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
reactant | Hydroxyethylamine | OCCN | C2H7NO
product | 2-{3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propylamino}-ethanol | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCNCCO | C18H19BrN2O2S
